US07101899B1
N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzamide hydrochloride
A 10% solution of hydrogen chloride in methanol (10 mL) was added to a suspension of N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzamide (0.45 g, 1.1 mmol) in methanol (30 mL) and the mixture was stirred at room temperature for 30 minutes. The solvent was distilled off and the residue was recrystallized from methanol to obtain 0.36 g (0.83 mmol, yield 73%) of the title compound.

reactant | hydrogen chloride | Cl | ClH
reactant | N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzamide | 1.1 mmol, 0.45 g | NC=1SC(=C(N1)C1=CC(=CC(=C1)C)C)C1=CC(=NC=C1)NC(C1=CC=CC=C1)=O | C23H20N4OS
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
product | N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzamide hydrochloride | 0.83 mmol, 0.36 g, yield 73% | Cl.NC=1SC(=C(N1)C1=CC(=CC(=C1)C)C)C1=CC(=NC=C1)NC(C1=CC=CC=C1)=O | InChI=1S/C23H20N4OS.ClH/c1-14-10-15(2)12-18(11-14)20-21(29-23(24)27-20)17-8-9-25-19(13-17)26-22(28)16-6-4-3-5-7-16;/h3-13H,1-2H3,(H2,24,27)(H,25,26,28);1H
